US06265408B1
(R)-2-Hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (D2)
To a solution of (R)-2-pyrrolidine methanol (0.19 mol) and di-tert-butyl dicarbonate (0.2 mol) in THF (200 ml) and water (200 ml) was added potassium carbonate until the solution was basic (pH9). The reaction mixture was stirred at room temp. overnight, before partitioning between CH2Cl2 and H2O. The organic phase was dried and concentrated and the residue purified by chromatography on silica gel (32.5 g, 84%) MH+ 202.

reactant | (R)-2-pyrrolidine methanol | 0.19 mol | N1[C@H](CCC1)CO | C5H11NO
reactant | di-tert-butyl dicarbonate | 0.2 mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (R)-2-Hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
